US07541372B2
2-(2-Ethoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 2-ethoxybenzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate=80:20 to 50:50, 135 mg, 42%) which was obtained as an off-white solid. MS: m/e=348.3 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2-ethoxybenzoic acid | C(C)OC1=C(C(=O)O)C=CC=C1 | C9H10O3
product | 2-(2-Ethoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 135 mg, 42% | C(C)OC1=C(C=CC=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C20H17N3O3
